US07265115B2
tert-butyl (1S,4S)-5-(5-pyrimidinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (330 mg, 1.6 mmol), prepared as described in (J. Med. Chem., (1988) 31, 1598-1611), and 5-bromopyrimidine (purchased from Acros Scientific) were processed as described in Example 15C to provide the title compound (99% yield). MS (DCI/NH3) m/z 277 (M+H)+.

reactant | tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 1.6 mmol, 330 mg | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
product | tert-butyl (1S,4S)-5-(5-pyrimidinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 99% yield | N1=CN=CC(=C1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C14H20N4O2
